US08835429B2
2-(4-aminophenyl)-6-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-4-amine
In a 250 mL round bottom flask was placed 6-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-2-(4-nitrophenyl)-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-4-amine (82 mg, 0.199 mmol) in dichloromethane (7 mL) and 2-propanol (7 mL). A catalytic amount of palladium on charcoal (wet) was added and the mixture was stirred under a hydrogen atmosphere for 16 hours. The mixture was diluted with dichloromethane, filtered over Celite™ and concentrated to give 69 mg (0.18 mmol, 91%) of a tan solid. HRMS: 382.2236 [M+H]+. For [M+H]+ mass error=−0.1 mDa or −0.35 ppm.

reactant | 6-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-2-(4-nitrophenyl)-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-4-amine | 0.199 mmol, 82 mg | C12COCC(CC1)N2C2=CC(=NC(=N2)C2=CC=C(C=C2)[N+](=O)[O-])NC2CCOCC2 | C21H25N5O4
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | 2-propanol | 7 mL | CC(C)O | C3H8O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-(4-aminophenyl)-6-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-4-amine | 0.18 mmol, 69 mg, 91% | NC1=CC=C(C=C1)C1=NC(=CC(=N1)NC1CCOCC1)N1C2COCC1CC2 | C21H27N5O2
